US04611010
3-(2,2-Dibromovinyl)-α-cyanobenzyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate
In a two-phase reaction mixture, 6.1 g (0.021 mole) of 3-(2,2-dibromovinyl)-benzaldehyde in 50 ml of ether, 1.5 g (0.023 mole) of KCN in 20 ml of water, 5.0 g (0.022 mole) of 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylic acid chloride and 0.5 g of triethylbenzylammonium chloride are stirred at room temperature, and thorough mixing is continued overnight at 25° C. The phases are separated and the aqueous phase is extracted twice by shaking with ether. The ether solution is washed with sodium bisulfite, NaHCO3 and water, dried over Na2SO4 and evaporated down.

reactant | 3-(2,2-dibromovinyl)-benzaldehyde | 0.021 mole, 6.1 g | BrC(=CC=1C=C(C=O)C=CC1)Br | C9H6Br2O
reactant | KCN | 0.023 mole, 1.5 g | [C-]#N.[K+]
reactant | 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylic acid chloride | 0.022 mole, 5.0 g | ClC(=CC1C(C1C(=O)Cl)(C)C)Cl | C8H9Cl3O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
catalyst | triethylbenzylammonium chloride | 0.5 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 3-(2,2-Dibromovinyl)-α-cyanobenzyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=CC1C(C1C(=O)OC(C1=CC(=CC=C1)C=C(Br)Br)C#N)(C)C)Cl | C18H15Br2Cl2NO2
